US04490533
B. 2-[(2-Aminoethyl)thiomethyl]-6-dimethylaminomethyl pyridine
6-Dimethylaminomethyl-2-[(2-phthalimidoethyl) thiomethyl]pyridine (24.3 g, 0.068 mol) is dissolved in methanol (150 ml) and hydrazine hydrate (4.8 g, 0.087 mol) is added. The solution is refluxed for 11/2 hours and is concentrated in vacuo. The solid residue is dissolved in water (250 ml) 12N HCl (35 ml) is added and the mixture is cooled and filtered. The filtrate is washed with chloroform and concentrated in vacuo. The residue is basified with excess sodium bicarbonate and concentrated to dryness in vacuo. The solid residue is extracted with chloroform/methanol (50/50) (200 ml) and the extract is dried over anhydrous sodium sulfate, filtered and concentrated in vacuo. This gives 10.3 g of 2-[(2-aminoethyl)thiomethyl]-6-dimethylaminomethyl pyridine as a light amber oil.

reactant | 6-Dimethylaminomethyl-2-[(2-phthalimidoethyl) thiomethyl]pyridine | 0.068 mol, 24.3 g | CN(C)CC1=CC=CC(=N1)CSCCN1C(C=2C(C1=O)=CC=CC2)=O | C19H21N3O2S
reactant | hydrazine hydrate | 0.087 mol, 4.8 g | O.NN
solvent | methanol | 150 ml | CO | CH4O
product | 2-[(2-Aminoethyl)thiomethyl]-6-dimethylaminomethyl pyridine | NCCSCC1=NC(=CC=C1)CN(C)C | C11H19N3S
